US07432287B2
Preparation of 5-(2-fluoro-1-fluoromethyl-ethoxy)-3-(3-fluoro-4-methanesulfonylphenoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide
The compound of Production Example 166 was obtained as a colorless amorphous substance using 3-(3-fluoro-4-methanesulfonylphenoxy)-5-hydroxy-benzoic acid methyl ester, 1,3-difluoro-2-propanol and 3-amino-1-methyl-1H-pyrazole obtained in the same manner as Production Example 42, by the same method as in Production Example 2, a corresponding method, or a combination thereof with an ordinary method.

reactant | 3-(3-fluoro-4-methanesulfonylphenoxy)-5-hydroxy-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OC1=CC(=C(C=C1)S(=O)(=O)C)F)=O | C15H13FO6S
reactant | 1,3-difluoro-2-propanol | FCC(CF)O | C3H6F2O
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
product | 5-(2-fluoro-1-fluoromethyl-ethoxy)-3-(3-fluoro-4-methanesulfonylphenoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide | FCC(OC=1C=C(C=C(C(=O)NC2=NN(C=C2)C)C1)OC1=CC(=C(C=C1)S(=O)(=O)C)F)CF | C21H20F3N3O5S
